US06235731B1
Synthesis of 4-tert-Butoxycarbonyl-1-(3-phenylpropan-1-yl)-2-oxopiperazine Sodium hydride (60% in oil, 630 mg, 15.8 mmol) was added to a stirred solution of 4-tert-butoxycarbonyl-2-oxopiperazine (3.00 g, 15.0 mmol) in N,N-dimethylformamide (40 ml) at room temperature and the stirring was continued at room temperature for 30 minutes. 1-Bromo-3-phenylpropane (3.29 g, 16.5 mmol) was added to the mixture and the stirring was continued at room temperature for 1 hour. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was successively washed with water, brine, dried over MgSO4 and concentrated in vacuo. The residue was chromatographed on silica gel (50 g) with hexane-ethyl acetate (1:1) to give 4-tert-butoxycarbonyl-1-(3-phenylpropan-1-yl)-2-oxopiperazine as colorless crystals (3.85 g, 81%), which were collected by filtration and washed with hexane.

reactant | 4-tert-Butoxycarbonyl-1-(3-phenylpropan-1-yl)-2-oxopiperazine Sodium hydride | 15.8 mmol, 630 mg | [H-].[Na+].C(C)(C)(C)OC(=O)N1CC(N(CC1)CCCC1=CC=CC=C1)=O
reactant | 4-tert-butoxycarbonyl-2-oxopiperazine | 15.0 mmol, 3.00 g | C(C)(C)(C)OC(=O)N1CC(NCC1)=O | C9H16N2O3
reactant | 1-Bromo-3-phenylpropane | 16.5 mmol, 3.29 g | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 4-tert-butoxycarbonyl-1-(3-phenylpropan-1-yl)-2-oxopiperazine | 3.85 g, 81% | C(C)(C)(C)OC(=O)N1CC(N(CC1)CCCC1=CC=CC=C1)=O | C18H26N2O3
